US04959364
Preparation of methyl 1-(1-oxo-2-propenyl)-2-pyrrolidinecarboxylate
L-Proline methyl ester hydrochloride (8.27 g, 0.05 mole) was dissolved in 250 ml of methylene chloride and triethylamine (40 ml, 0.28 mole) added thereto. The solution was filtered to remove the precipitate and cooled to 5° C. Over a period of 30 minutes, a solution of acryloyl chloride (4.52 g, 0.05 mole) was added to the cooled solution, the reaction allowed to warm to room temperature and stirred for 12 hours. Ethyl ether (100 ml) was then added to the solution and the resulting white solid filtered. An additional 200 ml of ethyl ether was added and a small amount of tan solid filtered out. The solvents were evaporated, and the resulting oil chromatographed on silica to isolate the product. The product was dried in vacuo at room temperature for 72 hours. The structure was confirmed by NMR.

reactant | L-Proline methyl ester hydrochloride | 0.05 mole, 8.27 g | Cl.COC([C@H]1NCCC1)=O
reactant | triethylamine | 0.28 mole, 40 ml | C(C)N(CC)CC | C6H15N
reactant | acryloyl chloride | 0.05 mole, 4.52 g | C(C=C)(=O)Cl | C3H3ClO
reactant | Ethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | methylene chloride | 250 ml | C(Cl)Cl | CH2Cl2
product | methyl 1-(1-oxo-2-propenyl)-2-pyrrolidinecarboxylate | O=C(C=C)N1C(CCC1)C(=O)OC | C9H13NO3
